US08207164B2
d) 2-[2-amino-2-(3-bromo-phenyl)-propoxy]-3,3,3-trifluoro-2-methyl-propionic acid methyl ester
To a solution of the 2-[2-azido-2-(3-bromo-phenyl)-propoxy]-3,3,3-trifluoro-2-methyl-propionic acid methyl ester (4.2 g, 9.22 mmol) in THF-H2O 3:1 (48 ml) was added indium (2.116 g, 18.43 mmol) followed by 4N aqueous HCl over a period of 20 min and stirring for 1 h at 25° C. The reaction mixture was added to a 10% aqueous K2CO3 solution and the product was extracted with EtOAc. The combined organic layers were washed with brine, dried over MgSO4, filtered and evaporated. The crude product was purified by flash-chromatography on NEt3 deactivated silica gel (hexane/EtOAc 2:1 to EtOAc) to provide a diastereomeric mixture of the title compound as a yellow oil: TLC (EtOAc): Rf=0.46; HPLC RtH5=0.999 min; 1H NMR (360 MHz, CDCl3): δ 7.73 (s, 1H), 7.47 (d, 1H), 7.41 (d, 1H), 7.24 (t, 1H), 3.84 and 3.83 (s, 3H), 3.59 (s, 2H), 1.61 and 1.59 (s, 3H), 1.52 and 1.51 (s, 3H); ESIMS: 384, 386 [(M+H)+].

reactant | 2-[2-azido-2-(3-bromo-phenyl)-propoxy]-3,3,3-trifluoro-2-methyl-propionic acid methyl ester | 9.22 mmol, 4.2 g | COC(C(C(F)(F)F)(C)OCC(C)(C1=CC(=CC=C1)Br)N=[N+]=[N-])=O | C14H15BrF3N3O3
reactant | indium | 18.43 mmol, 2.116 g | [In] | In
reactant | HCl | 4N | Cl | ClH
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | THF H2O | 48 ml | C1CCOC1.O
product | 2-[2-amino-2-(3-bromo-phenyl)-propoxy]-3,3,3-trifluoro-2-methyl-propionic acid methyl ester | COC(C(C(F)(F)F)(C)OCC(C)(C1=CC(=CC=C1)Br)N)=O | C14H17BrF3NO3
